US07910135B2
Hydrogel Nanoparticle Synthesis Using HEMA
A 500 mL media bottle equipped with a stir bar was charged with 4.52 g (34.8 mmol) hydroxyethyl methacrylate(HEMA) monomer, 77.74 mg (0.428 mmol) ethylene glycol dimethacrylate (EGDM), 0.2123 g (0.634 mmol) sodium dodecyl sulfate (SDS) and 240 mL milli-Q H2O. The bottle was closed with a sparging cap and purged with N2 for 1 hr at room temperature while stirring. Then, 0.166 g potassium persulfate (K2S2O8) was dissolved into 21 mL of milli-Q H2O and added to the media bottle while stirring. The bottle was transferred to a 40° C. water bath and held there for 12 hours. The resulting suspension of hydrogel particles had an opalescent blue color. The particles were analyzed by dynamic light scattering and found to have an average radius of 36.5 nm as shown in FIG. 1. The particles were purified by tangential flow filtration and are stored in an aqueous suspension. No flocculation was observed over several months.

reactant | ethylene glycol dimethacrylate | 0.428 mmol, 77.74 mg | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
reactant | sodium dodecyl sulfate | 0.634 mmol, 0.2123 g | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
solvent | H2O | 240 mL | O | H2O
product | HEMA | CC(=C)C(=O)OCCO | C6H10O3
